US08106064B2
Benzoic acid 3-chloro-2,5,6-trifluoro-pyridin-4-ylmethyl ester (4.52 g, 15 mmol), anhydrous ethanol (50 ml), 10% palladium on carbon (500 mg), and triethylamine (2.5 ml, 18 mmol) were placed into a 500 ml bottle. The mixture was hydrogenated under hydrogen atmosphere (50 psi) for 1.5 hr. The reaction mixture was filtered through celite pad and the pad was washed with ethanol. The combined filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, ether:hexane (1:15)) to afford 3.43 g (85%) of benzoic acid 2,3,6-trifluoro-pyridin-4-ylmethyl ester as a white solid. m.p. 73-76° C.; 1H NMR (200 MHz, CDCl3) δ 5.52 (2H, s), 6.95 (1H, m), 7.30-7.70 (3H, m), 8.09-8.15 (2H, m).

reactant | Benzoic acid 3-chloro-2,5,6-trifluoro-pyridin-4-ylmethyl ester | 15 mmol, 4.52 g | ClC=1C(=NC(=C(C1COC(C1=CC=CC=C1)=O)F)F)F | C13H7ClF3NO2
reactant | triethylamine | 18 mmol, 2.5 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | benzoic acid 2,3,6-trifluoro-pyridin-4-ylmethyl ester | 3.43 g, 85% | FC1=NC(=CC(=C1F)COC(C1=CC=CC=C1)=O)F | C13H8F3NO2
